US04220647
N-benzyloxycarbonyl-p-fluoroanilinoacetaldehyde diethyl acetal (6 g) and 3,4-dihydroxyphenethylamine hydrochloride (2.5 g) were added to a mixture of n-butyl alcohol (60 ml) and water (8.5 ml). The mixture was then refluxed for 11 hours in a stream of nitrogen. In the course of the reaction, amounts of the above-mentioned acetal (0.6 g and 1.2 g) were added to the mixture after 4.5 hours and 6 hours, respectively, from the beginning of the reaction. The reaction mixture was concentrated to dryness and the residue was washed with ether and dissolved in water. The solution was washed with ether and concentrated to dryness to give amorphous 1-(N-benzyloxycarbonyl-p-fluoroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (2.7 g), mp 122° C. (dec.).

reactant | N-benzyloxycarbonyl-p-fluoroanilinoacetaldehyde diethyl acetal | 6 g | C(C)OC(CN(C1=CC=C(C=C1)F)C(=O)OCC1=CC=CC=C1)OCC | C20H24FNO4
reactant | 3,4-dihydroxyphenethylamine hydrochloride | 2.5 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | n-butyl alcohol | 60 ml | C(CCC)O | C4H10O
solvent | water | 8.5 ml | O | H2O
product | 1-(N-benzyloxycarbonyl-p-fluoroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 2.7 g | Cl.C(C1=CC=CC=C1)OC(=O)N(C1=CC=C(C=C1)F)CC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C24H23FN2O4.ClH/c25-18-6-8-19(9-7-18)27(24(30)31-15-16-4-2-1-3-5-16)14-21-20-13-23(29)22(28)12-17(20)10-11-26-21;/h1-9,12-13,21,26,28-29H,10-11,14-15H2;1H
